US04011082
In a one liter three-neck flask provided with agitating means were charged and stirred 216 g (1.5 mole) of α-naphthol and 171 g (1.26 mole) of zinc chloride, 278 g (1.26 mole) of tetradecyl alcohol was added dropwise to the flask kept at 160° C. Stirring was continued for 8 hours after the completion of the addition at the same temperature. The reaction product was cooled to room temperature (i.e., 20°-30° C), and then washed with water after the addition of 500 ml of petroleum ether and 500 ml of water with stirring. This washing operation was repeated twice. The petroleum ether layer was separated, which was distilled under a reduced pressure after being dried with anhydrous sodium sulfate. 183 g of 4-tetradecyl-α-naphthol (yield: 42.7%) having boiling range of 188° to 194° C at 0.15 mmHg was obtained.

reactant | α-naphthol | 1.5 mole, 216 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | tetradecyl alcohol | 1.26 mole, 278 g | C(CCCCCCCCCCCCC)O | C14H30O
catalyst | zinc chloride | 1.26 mole, 171 g | [Cl-].[Zn+2].[Cl-]
product | 4-tetradecyl-α-naphthol | 183 g, yield: 42.7% | C(CCCCCCCCCCCCC)C1=CC=C(C2=CC=CC=C12)O | C24H36O
